US04988689
A mixture of 6.2 parts of 1-[(4-fluorophenyl)methyl]-N-(3-pyrrolidinyl)-1H-benzimidazol-2-amine, 4.3 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone was stirred and refluxed for 30 minutes using a water separator. 4.9 Parts of 1-(2-chloroethyl)-1,3-dihydro-2H-benzimidazol-2-one were added at reflux temperature and stirring was continued for 20 hours at reflux temperature using a water separator. After cooling, the salts were filtered off and the filtrate was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and ammonium hydroxide (90:9:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in 2-propanone. The salt was filtered off and dried in a dry pistol with methylbenzene, yielding 6.30 parts (45%) of 1-[2-[3-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-pyrrolidinyl]ethyl]-1,3-dihydro-2H-benzimidazol-2-one ethanedioate(2:5); mp. 190.6° C. (compound 125).

reactant | 1-[(4-fluorophenyl)methyl]-N-(3-pyrrolidinyl)-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CNCC2 | C18H19FN4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
reactant | 1-(2-chloroethyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCN1C(NC2=C1C=CC=C2)=O | C9H9ClN2O
solvent | water | O | H2O
product | 1-[2-[3-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-pyrrolidinyl]ethyl]-1,3-dihydro-2H-benzimidazol-2-one ethanedioate | 45% | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CN(CC2)CCN2C(NC1=C2C=CC=C1)=O | InChI=1S/C27H27FN6O.C2H2O4/c28-20-11-9-19(10-12-20)17-34-25-8-4-1-5-22(25)30-26(34)29-21-13-14-32(18-21)15-16-33-24-7-3-2-6-23(24)31-27(33)35;3-1(4)2(5)6/h1-12,21H,13-18H2,(H,29,30)(H,31,35);(H,3,4)(H,5,6)
